US07410963B2
3-[7-(3-Methoxy-phenyl)-1-methyl-2-oxo-2,3-dihydro-1H-benzo[e][1,4]diazepin-5-yl]-benzonitrile
Prepared from 3-(7-bromo-1-methyl-2-oxo-2,3-dihydro-1H-benzo[e][1,4]diazepin-5-yl)-benzonitrile Intermediate 14 using the same method described for Example 1 and instead of using benzene boronic acid, we used 3-methoxyphenyl boronic acid. The title compound (110 mg) was obtained as a yellow solid, (yield=58%).

reactant | 3-(7-bromo-1-methyl-2-oxo-2,3-dihydro-1H-benzo[e][1,4]diazepin-5-yl)-benzonitrile | BrC1=CC2=C(N(C(CN=C2C=2C=C(C#N)C=CC2)=O)C)C=C1 | C17H12BrN3O
reactant | benzene boronic acid | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | 3-methoxyphenyl boronic acid | COC=1C=C(C=CC1)B(O)O | C7H9BO3
product | 3-[7-(3-Methoxy-phenyl)-1-methyl-2-oxo-2,3-dihydro-1H-benzo[e][1,4]diazepin-5-yl]-benzonitrile | 110 mg, yield=58% | COC=1C=C(C=CC1)C1=CC2=C(N(C(CN=C2C=2C=C(C#N)C=CC2)=O)C)C=C1 | C24H19N3O2
